US07256305B2
In a 50 mL-volumetric autoclave were added deaerated methanol (10 mL) and t-amyl alcohol (10 mL), and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (S)-methylglycidyl ether (1.8 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 40° C. for 8 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (S)-4-methoxy-3-hydroxybutanoic acid methyl ester (2.7 g, 92%, >99% ee) as a colorless oil.

reactant | t-amyl alcohol | 10 mL | C(C)(C)(CC)O | C5H12O
reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (S)-methylglycidyl ether | 20 mmol, 1.8 g | COC[C@@H]1CO1 | C4H8O2
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 10 mL | CO | CH4O
product | (S)-4-methoxy-3-hydroxybutanoic acid methyl ester | 2.7 g, 92% | COC(C[C@@H](COC)O)=O | C6H12O4
